US04772600
2-(4-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A mixture of N-[3-[(4-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester (32 g, 0.1 mole) and 167 ml of ethylene glycol was heated at reflux for 11/2 hr. After cooling, potassium hydroxide (8.4 g) in 40 ml of water was added, and the reaction mixture was heated at reflux for 1 hr. The solution was filtered to remove yellow precipitate, the filtrate was diluted with 650 ml of water, and acidified with 3N hydrochloric acid. The solid which formed, was collected by filtration, washed with water, and dried under high vacuum at 50° C. overnight to give 25.5 g (90.1% yield). A 0.5-g sample was recrystallized from ethanol, collected by filtration, washed with cold ethanol and water, and dried under high vacuum at 70° C. over 2 days to give 0.47 g of crystals, mp 260°-63° C.

reactant | N-[3-[(4-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 0.1 mole, 32 g | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)OC)=O)=O | C17H19N3O4
reactant | ethylene glycol | 167 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 8.4 g | [OH-].[K+]
solvent | water | 40 ml | O | H2O
product | 2-(4-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.47 g, 90.1% yield | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C15H13N3O3
